US07456180B2
Synthesis of 4-(2-Trifluoromethylbenzoyl)-3,4,5,6-Tetrahydro-2H-[1,2′]Bipyrazinyl-5′-Carboxylic Acid Pentylamide
Potassium tert-butoxide (0.112 g, 1.00 mmol) was added to a premixed mixture of amylamine (2.5 mL) and 4-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester (0.258 g, 0.65 mmol) in a 5 mL reactor for microwave oven. The reaction mixture was irradiated under stirring for 10 minutes at 120° C. On completion of the raction, the mixture was diluted with water and extracted with dichloromethane. The organic layer was washed sequentially with 10% HCl solution, water and sodium hydroxide solution, then separated and dried with Na2SO4. Removal of the solvent afforded the title compound in 68% yield (0.200 g). 1H NMR (300 MHz, CDCl3) δ 8.85, 7.97, 7.74, 7.63, 7.56, 7.49, 7.36, 4.05-4.00, 3.89-3.82, 3.78-3.73, 3.70-3.61, 3.44-3.40, 3.33-3.31, 2.16, 1.63-1.58, 1.37-0.134.

reactant | Potassium tert-butoxide | 1.00 mmol, 0.112 g | CC(C)([O-])C.[K+]
reactant | amylamine | 2.5 mL | C(CCCC)N | C5H13N
reactant | 4-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | 0.65 mmol, 0.258 g | COC(=O)C=1N=CC(=NC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H17F3N4O3
solvent | water | O | H2O
product | 4-(2-Trifluoromethylbenzoyl)-3,4,5,6-Tetrahydro-2H-[1,2′]Bipyrazinyl-5′-Carboxylic Acid Pentylamide | 68% yield | C(CCCC)NC(=O)C=1N=CC(=NC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H26F3N5O2
